US09382188B2
B) (4-bromo-3-(bromomethyl)phenoxy)(tert-butyl)dimethylsilane
To a solution of (4-bromo-3-methylphenoxy)(tert-butyl)dimethylsilane (6.97 g) and N-bromosuccinimide (6.21 g) in ethyl acetate (100 mL) was added 2,2′-azobis(isobutyronitrile) (383 mg), and the mixture was refluxed for 17 hr. The mixture was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (2.65 g) as a colorless oil.

reactant | (4-bromo-3-methylphenoxy)(tert-butyl)dimethylsilane | 6.97 g | BrC1=C(C=C(O[Si](C)(C)C(C)(C)C)C=C1)C | C13H21BrOSi
reactant | N-bromosuccinimide | 6.21 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(isobutyronitrile) | 383 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (4-bromo-3-(bromomethyl)phenoxy)(tert-butyl)dimethylsilane | 2.65 g | BrC1=C(C=C(O[Si](C)(C)C(C)(C)C)C=C1)CBr | C13H20Br2OSi
